US06469065B1
11a. 2-{[Benzyloxycarbonyl]methoxy}acetic Acid
Diglycolic anhydride (4.11 g, 31.9 mmol) was dissolved in methylene chloride and benzyl alcohol (3.3 g, 31.9 mmol) was added, followed by triethylamine (3.22 g, 31.9 mmol). The reaction mixture was stirred at room temperature for 4 hours. Toluene (20 mL) was added, volatiles were evaporated and the residue was dried on vacuum pump overnight to afford 7.17 g of the title compound as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ4.17 (s, 2H), 4.26 (s, 2H), 5.18 (s, 2H), 7.21-7.42 (m, 5H).

reactant | Diglycolic anhydride | 31.9 mmol, 4.11 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | benzyl alcohol | 31.9 mmol, 3.3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 31.9 mmol, 3.22 g | C(C)N(CC)CC | C6H15N
reactant | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{[Benzyloxycarbonyl]methoxy}acetic Acid | 7.17 g | C(C1=CC=CC=C1)OC(=O)COCC(=O)O | C11H12O5
